US07713957B2
Synthesis of methyl 3-hydroxy-2-[(1-piperidinylcarbonyl)amino]propionate:
1.00 g (6.43 mmol) of serine methyl ester hydrochloride and 960 mg (14.1 mmol) of imidazole were dissolved in 10 ml of dichloromethane. 10 ml of a solution of 1.07 g (7.07 mmol) of t-butyldimethylchlorosilane in dichloromethane was added dropwise to the obtained solution under cooling with ice, and they were stirred at room temperature for 1 hour. After concentrating under reduced pressure, ethyl acetate was added to the residue. The reaction mixture was washed with saturated aqueous ammonium chloride solution, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in 10 ml of dichloromethane. 1.35 ml (9.65 mmol) of triethylamine and 0.97 ml (7.72 mmol) of 1-piperidinecarbonyl chloride were added dropwise to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. 20 ml of chloroform was added to the reaction mixture, and they were stirred at 50° C. for 3 hours and then concentrated under reduced pressure. The residue was dissolved in 15 ml of methanol. 10 ml of 2 N hydrochloric acid was added dropwise to the obtained solution under cooling with ice, and they were stirred at room temperature for 2 hours. After the concentration under reduced pressure, ethyl acetate was added to the residue. The product was washed with 1 N aqueous hydrochloric acid solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by the silica gel chromatography (dichloromethane:methanol=1:0 to 9:1) to obtain the title compound.

reactant | serine methyl ester hydrochloride | 6.43 mmol, 1.00 g | Cl.COC([C@@H](N)CO)=O
reactant | imidazole | 14.1 mmol, 960 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 7.07 mmol, 1.07 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | triethylamine | 9.65 mmol, 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | 1-piperidinecarbonyl chloride | 7.72 mmol, 0.97 ml | N1(CCCCC1)C(=O)Cl | C6H10ClNO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-hydroxy-2-[(1-piperidinylcarbonyl)amino]propionate | OCC(C(=O)OC)NC(=O)N1CCCCC1 | C10H18N2O4
